US06127354
A solution of [(1R)-1-(N-{2-[2-(2-hydroxyethoxy)phenyl]ethyl}-N-methylcarbamoyl)-2-(2-naphthyl)ethyl]carbamic acid tert-butyl ester (519 mg, 1.85 mmol) in dichloromethane (3 ml) was cooled to 0° C. Trifluoroacetic acid (3 mL) was added. The reaction mixture was stirred at 0° C. for 40 min. Dichloromethane (20 ml) was added. A saturated solution of sodium hydrogen carbonate (10 ml) was added dropwise. Solid sodium hydrogen carbonate was added, until pH 7 was obtained. The phases were separated. The aqueous phase was extracted with dichloromethane (3×20 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (60 g), using dichloromethane/methanol/25% aqueous ammonia, to give 377 mg of (2R)-2-amino-N-{2-[2-(2-hydroxyethoxy)phenyl]ethyl}-N-methyl-3-(2-naphthyl)propionamide.

reactant | [(1R)-1-(N-{2-[2-(2-hydroxyethoxy)phenyl]ethyl}-N-methylcarbamoyl)-2-(2-naphthyl)ethyl]carbamic acid tert-butyl ester | 1.85 mmol, 519 mg | C(C)(C)(C)OC(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)CCC1=C(C=CC=C1)OCCO)=O)=O | C29H36N2O5
reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2R)-2-amino-N-{2-[2-(2-hydroxyethoxy)phenyl]ethyl}-N-methyl-3-(2-naphthyl)propionamide | 377 mg | N[C@@H](C(=O)N(C)CCC1=C(C=CC=C1)OCCO)CC1=CC2=CC=CC=C2C=C1 | C24H28N2O3
